US06897210B2
1-(2-Chloroethyl)pyrrolidine hydrochloride (200 mg, 1.2 mmol) was added to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (403 mg, 1.26 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (650 mg, 4.7 mmol) in DMF (4 ml). The mixture was heated to 100° C. and further portions of 1-(2-chloroethyl)pyrrolidine hydrochloride (800 mg in total) were added periodically over 4 hours while the reaction mixture was maintained at 100° C. The reaction was then allowed to cool and volatiles were removed by evaporation. The residue was partitioned between methylene chloride and water, separated and the organic phase passed through phase separating paper. Column chromatography eluting with methylene chloride/methanol 19/5) gave 4-(4-chloro-2-fuoroanilino)-6-methoxy-7-(pyrrolidin-1-yl)ethoxy)quinazoline (50 mg, 10%).

reactant | 1-(2-Chloroethyl)pyrrolidine hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCN1CCCC1
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.26 mmol, 403 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 4.7 mmol, 650 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 800 mg | Cl.ClCCN1CCCC1
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | quinazoline | 50 mg, 10% | N1=CN=CC2=CC=CC=C12 | C8H6N2
